US04497650
N-Isopropyl-4-oxo-2,3,4,10-tetrahydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide
The procedure of Example 10 was used to prepare the title compound from 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one and isopropyl isocyanate. The product crystallized as a white solid, mp 93°-96° C. The confirmatory elemental analysis is shown in Table III.

reactant | 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C12H14N4O
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | N-Isopropyl-4-oxo-2,3,4,10-tetrahydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide | C(C)(C)NC(=O)N1C=2N(C3=C1C=CC=C3)C(N(C(N2)(C)C)C)=O | C16H21N5O2
